US07129274B1
A solution of 10.0 ml (11.31 g, 83.1 mmol) of 2′-hydroxyacetophenone and 50 ml of tetrahydrofuran was placed in an ice bath and treated with 120.0 ml (168.0 mmol) of 1.4 M methyllithium in tetrahydrofuran, which was added dropwise over 30 minutes. The reaction mixture first became cloudy and then cleared up. After stirring for 18 hours, the solution was acidified with 4% aqueous hydrochloric acid. The layers were separated. The organic phase was washed with 30 ml of brine, dried over sodium sulfate, and concentrated. A total of 12.05 g of 2-(dimethylhydroxymethyl)phenol was isolated.

reactant | 2′-hydroxyacetophenone | 83.1 mmol, 10.0 ml, 11.31 g | OC1=C(C=CC=C1)C(C)=O | C8H8O2
reactant | methyllithium | 168.0 mmol, 1.4 M, 120.0 ml | C[Li]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(dimethylhydroxymethyl)phenol | 12.05 g | CC(C1=C(C=CC=C1)O)(O)C | C9H12O2
